US08008481B2
A mixture of 3-Benzo[b]thiophen-2-yl-2-chloro-5-nitro-benzoic acid (0.11 g, 0.33 mmol), hydrazine (0.35 mL) and isopropyl alcohol (3 mL) was heated to about 90° C. for about 1 hour. The mixture was cooled then the solvents were evaporated under reduced pressure. The residue was treated with 6N aqueous hydrochloric acid (5 mL) the mixture was extracted with ethyl acetate (3×30 mL). The organic extracts were combined then concentrated to give 7-Benzo[b]thiophen-2-yl-5-nitro-1H-indazol-3-ol RP-HPLC (Table 1, Method e) Rt 1.41 min; m/z: (M−H)− 310.24.

reactant | 3-Benzo[b]thiophen-2-yl-2-chloro-5-nitro-benzoic acid | 0.33 mmol, 0.11 g | S1C2=C(C=C1C=1C(=C(C(=O)O)C=C(C1)[N+](=O)[O-])Cl)C=CC=C2 | C15H8ClNO4S
reactant | hydrazine | 0.35 mL | NN | H4N2
solvent | isopropyl alcohol | 3 mL | C(C)(C)O | C3H8O
product | 7-Benzo[b]thiophen-2-yl-5-nitro-1H-indazol-3-ol | S1C2=C(C=C1C=1C=C(C=C3C(=NNC13)O)[N+](=O)[O-])C=CC=C2 | C15H9N3O3S
